US06903086B2
To a solution of methyl 2-amino-5-phenylbenzoate (1.2 g, 5.28 mmol) in toluene (17.5 mL) and pyridine (0.75 mL, 9.24 mmol) was added 20% phosgene in toluene (3.97 mL, 7.65 mmol) under nitrogen. The mixture was heated at 90° C. for 1 h, cooled to 25° C. and filtered. The filtrate was taken to dryness. Toluene (30 mL), (5-phenyl-benzofuran-2-yl)-methanol (1.19 g, 5.28 mmol) and 4-dimethyl-aminopyridine (0.064 g, 0.53 mmol) were added to the residue under a nitrogen atmosphere. The mixture was heated at 50° C. for 24 h, then concentrated to dryness. Purification by chromatography followed by crystallization gave 1.04 g of 4-(5-phenyl-benzofuran-2-ylmethoxycarbonylamino)-biphenyl-3-carboxylic acid methyl ester.

reactant | methyl 2-amino-5-phenylbenzoate | 5.28 mmol, 1.2 g | NC1=C(C(=O)OC)C=C(C=C1)C1=CC=CC=C1 | C14H13NO2
reactant | pyridine | 9.24 mmol, 0.75 mL | N1=CC=CC=C1 | C5H5N
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | (5-phenyl-benzofuran-2-yl)-methanol | 5.28 mmol, 1.19 g | C1(=CC=CC=C1)C=1C=CC2=C(C=C(O2)CO)C1 | C15H12O2
solvent | toluene | 17.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | Toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 7.65 mmol, 3.97 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(5-phenyl-benzofuran-2-ylmethoxycarbonylamino)-biphenyl-3-carboxylic acid methyl ester | 1.04 g | COC(=O)C=1C=C(C=CC1NC(=O)OCC=1OC2=C(C1)C=C(C=C2)C2=CC=CC=C2)C2=CC=CC=C2 | C30H23NO5
